US07276606B2
(2,5-Dimethyl-2H-pyrazol-3-yl)-[6-(1H-indol-3-yl)-6H-phenanthridin-5-yl]-methanone was prepared from phenanthridine, 1,3-dimethylpyrazole-5-carbonyl chloride, and indole according to GP 2. Yield, 7%. 1H-NMR (DMSO-d6): δ=1.97 (s, 3H), 3.77 (s, 3H), 5.56 (s, 1H), 6.20 (s, 1H), 6.63 (s, br., 1H), 6.95 (t, J=7.5 Hz, 1H), 6.99-7.10 (m, 2H), 7.14-7.30 (m, 3H), 7.42 (t, J≈7.2 Hz, 1H), 7.49-7.58 (m, 2H), 7.83 (d, J=6.7 Hz, 1H), 7.98 (d, J=7.6 Hz, 1H), 8.09 (d, J=7.6 Hz, 1H), 10.72 (s, 1H); (+)-ESI-MS: m/z=419 [M+H]+, 302 [M-indole+H]+.

reactant | phenanthridine | C1=CC=CC2=NC=C3C=CC=CC3=C12 | C13H9N
reactant | 1,3-dimethylpyrazole-5-carbonyl chloride | CN1N=C(C=C1C(=O)Cl)C | C6H7ClN2O
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
product | (2,5-Dimethyl-2H-pyrazol-3-yl)-[6-(1H-indol-3-yl)-6H-phenanthridin-5-yl]-methanone | CN1N=C(C=C1C(=O)N1C=2C=CC=CC2C2=CC=CC=C2C1C1=CNC2=CC=CC=C12)C | C27H22N4O
